US07132425B2
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2,5-dioxo-imidazolidin-4-ylidenemethyl)-pyrazin-2-yl]-propionamide (130 mg, 0.25 mmol) in ethanol (5 mL) was treated with 10% palladium on activated carbon (260 mg). The reaction mixture was stirred under hydrogen (65 psi) at 25° C. for 2 d. The catalyst was then filtered off through a pad of celite, and the celite pad was washed well with ethanol. The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 80%–100% ethyl acetate/hexanes) afforded 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2,5-dioxo-imidazolidin-4-ylmethyl)-pyrazin-2-yl]-propionamide (20 mg, 15%) as a white solid: LC-MS m/e 520 (MH+).

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2,5-dioxo-imidazolidin-4-ylidenemethyl)-pyrazin-2-yl]-propionamide | 0.25 mmol, 130 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=C(N=C1)C=C1NC(NC1=O)=O)CC1CCCC1 | C23H24ClN5O5S
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 260 mg | [Pd] | Pd
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2,5-dioxo-imidazolidin-4-ylmethyl)-pyrazin-2-yl]-propionamide | 20 mg, 15% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=C(N=C1)CC1NC(NC1=O)=O)CC1CCCC1 | C23H26ClN5O5S
